US07947706B2
79 mg of solid white 3-{4-[3-(2-fluoro-3-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are prepared as described in Example 7 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide and 2-fluoro-3-trifluoromethylphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 2-fluoro-3-trifluoromethylphenyl isocyanate | FC1=C(C=CC=C1C(F)(F)F)N=C=O | C8H3F4NO
product | 3-{4-[3-(2-fluoro-3-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | FC1=C(C=CC=C1C(F)(F)F)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O | C22H15F4N5O2
